US04798843
(iv) 5-(4-Methoxvphenethyl)-2-mercaptoimidazole
A solution of 4-(4-methoxyphenyl)-2-oxo-1-aminobutane, hydrochloride (8.6 g, 37.7 mmole) and potassium thiocyanate (3.6 g, 37.7 mmole) in acetic acid (100 ml) was heated under reflux for 20 minutes. The reaction was cooled, diluted with water and the product was filtered and recrystallized from ethyl alcohol and dried to give the product as a solid (1.7 g, 19%).

reactant | 4-(4-methoxyphenyl)-2-oxo-1-aminobutane, hydrochloride | 37.7 mmole, 8.6 g | Cl.COC1=CC=C(C=C1)CCC(CN)=O
reactant | potassium thiocyanate | 37.7 mmole, 3.6 g | [S-]C#N.[K+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(4-Methoxvphenethyl)-2-mercaptoimidazole | 1.7 g, 19% | COC1=CC=C(CCC2=CN=C(N2)S)C=C1 | C12H14N2OS
